US08283354B2
2-(4-Chloro-7-methylquinazolin-2-yl)-3-fluorophenol (4.37 g, 15.14 mmol) was suspended in CH2Cl2 (65 mL) under an N2 atmosphere and placed into an ice water bath. To this solution was added a solution of piperazine (4.00 g, 45.42 mmol) and triethylamine (4.2 mL, 30.28 mmol) in CH2Cl2 (15 mL) in one portion. After stirring the reaction for 30 minutes, it was partitioned between CH2Cl2 and H2O and separated, and the aqueous layer was extracted twice more with CH2Cl2. The organic phase was dried over Na2SO4, filtered, and concentrated to a bright yellow solid which was purified via silica gel chromatography using a 95%/5% mixture of CH2Cl2/MeOH to afford 3-fluoro-2-(7-methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol (4.32 g, 85%) as a bright yellow solid. LC/MS: m/z 339.3 (M+H)+ at 1.80 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(4-Chloro-7-methylquinazolin-2-yl)-3-fluorophenol | 15.14 mmol, 4.37 g | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C15H10ClFN2O
reactant | piperazine | 45.42 mmol, 4.00 g | N1CCNCC1 | C4H10N2
reactant | triethylamine | 30.28 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 65 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-fluoro-2-(7-methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol | 4.32 g, 85% | FC=1C(=C(C=CC1)O)C1=NC2=CC(=CC=C2C(=N1)N1CCNCC1)C | C19H19FN4O
